US06248765B1
3-(1H-Imidazol-4-yl)propyl 4-methoxyphenyl ether
5 mmol of 3-(1-triphenylmethyl-1H-imidazol-4-yl)propanol and 6 mmol of 4-methoxyphenol are treated as described in Example 76.

reactant | 3-(1-triphenylmethyl-1H-imidazol-4-yl)propanol | 5 mmol | C1(=CC=CC=C1)C(N1C=NC(=C1)CCCO)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H24N2O
reactant | 4-methoxyphenol | 6 mmol | COC1=CC=C(C=C1)O | C7H8O2
product | 3-(1H-Imidazol-4-yl)propyl 4-methoxyphenyl ether | COC1=CC=C(C=C1)OCCCC=1N=CNC1 | C13H16N2O2
